US08859777B2
A solution of 4-(3-benzyloxyphenyl)-1-(3,3-diphenyl-propyl)-4-fluoropiperidine hydrochloride (40 mg, 0.08 mmol) in methanol (5 mL) was treated with palladium on carbon (10 mg, 10% Pd, 50% H2O) and the mixture rapidly stirred under 1 atmosphere of hydrogen gas for 8 hours. After this time the hydrogen was replaced by nitrogen and the reaction mixture filtered through a celite pad. The pad was washed with additional methanol (10 mL) and the filtrate concentrated under reduced pressure. Trituration of the residue with a 1:1 mixture of 2-butanone/ethyl acetate (10 mL) and subsequent filtration and drying afforded a 64% yield of 1-(3,3-diphenylpropyl)-4-fluoro-4-(3-hydroxyphenyl)piperidine hydrochloride as an off-white solid.

reactant | 4-(3-benzyloxyphenyl)-1-(3,3-diphenyl-propyl)-4-fluoropiperidine hydrochloride | 0.08 mmol, 40 mg | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCN(CC1)CCC(C1=CC=CC=C1)C1=CC=CC=C1)F
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | 1-(3,3-diphenylpropyl)-4-fluoro-4-(3-hydroxyphenyl)piperidine hydrochloride | 64% yield | Cl.C1(=CC=CC=C1)C(CCN1CCC(CC1)(C1=CC(=CC=C1)O)F)C1=CC=CC=C1 | InChI=1S/C26H28FNO.ClH/c27-26(23-12-7-13-24(29)20-23)15-18-28(19-16-26)17-14-25(21-8-3-1-4-9-21)22-10-5-2-6-11-22;/h1-13,20,25,29H,14-19H2;1H
